US05604229
A solution of 5.42 g of cinnamyl bromide, 5.43 g of diethyl 2-acetamidomalonate and 1.87 g of sodium ethoxide in 70 ml of ethanol was refluxed under heating for 2 hours under a nitrogen atmosphere. The mixture was poured into 200 ml of ice water and extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate and the solvent was distilled away. The residue was purified by silica gel chromatography (ethyl acetate:hexane=1:10-1:3) to give 2.68 g of diethyl 2-acetamido-2-(3-phenyl-2-propenyl)malonate as white crystals.

reactant | cinnamyl bromide | 5.42 g | C(C=CC1=CC=CC=C1)Br | C9H9Br
reactant | diethyl 2-acetamidomalonate | 5.43 g | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
reactant | sodium ethoxide | 1.87 g | [O-]CC.[Na+]
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | diethyl 2-acetamido-2-(3-phenyl-2-propenyl)malonate | 2.68 g | C(C)(=O)NC(C(=O)OCC)(C(=O)OCC)CC=CC1=CC=CC=C1 | C18H23NO5
